US07129367B2
(2) Preparation of 2,2-diphenyl-1-(di-tert-butyl-phosphino)-1-methylcyclopropane
Under a nitrogen atmosphere, 1-chloro-1-methyl-2,2-diphenylcyclopropane (2.43 g, 10.0 mmol), magnesium (0.279 g, 11.5 mmol) and THF (10 ml) were placed in a reaction flask, followed by addition of a trace amount of iodine and stirring at 60° C. for 5 hours. After cooling, copper iodide (1.92 g, 10.0 mmol), lithium bromide (0.879 g, 10.1 mmol) and chlorodi-tert-butylphosphine (2.1 ml, 11.0 mmol) were added and the resulting mixture was stirred at 60° C. for 3 hours, followed by cooling to room temperature. The resulting mixture was diluted with hexane (20 ml) and crystal separated was collected by filtration. The crystal was dissolved in toluene, and the toluene solution was washed with a 28% (w/w) aqueous ammonia and a brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (0.89 g, 25%) as white crystal.

reactant | 1-chloro-1-methyl-2,2-diphenylcyclopropane | 10.0 mmol, 2.43 g | ClC1(C(C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C16H15Cl
reactant | magnesium | 11.5 mmol, 0.279 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | lithium bromide | 10.1 mmol, 0.879 g | [Br-].[Li+]
reactant | chlorodi-tert-butylphosphine | 11.0 mmol, 2.1 ml | ClP(C(C)(C)C)C(C)(C)C | C8H18ClP
solvent | hexane | 20 ml | CCCCCC | C6H14
catalyst | copper iodide | 10.0 mmol, 1.92 g | [Cu](I)I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2,2-diphenyl-1-(di-tert-butyl-phosphino)-1-methylcyclopropane | 0.89 g, 25% | C1(=CC=CC=C1)C1(C(C1)(C)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C24H33P
